US07495018B2
1-bromo-3-ethylbenzene
To a solution of 3-ethylaniline (10.0 g, 82.5 mmol) in 50% sulfanic acid (43.6 g) was added dropwise an aqueous solution (16.5 mL) of sodium nitrite (6.83 g, 99.0 mmol) over 30 minutes at 0° C. The resulting reaction mixture was stirred for 45 minutes at 0° C. This diazonium salt solution was added dropwise to a solution of copper (I) bromide (12.4 g, 86.6 mmol) in a 48% hydrobromic acid (82.5 mL) while heating gently under reflux. After the addition, the reaction mixture was heated to reflux for 30 minutes. The reaction mixture was cooled to room temperature, and extracted with ether. The extracts were sequentially washed with a 1N-aqueous sodium hydroxide solution and brine, and filtrated, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=20:1) to obtain a title compound (6.13 g, yield 40%).

reactant | 3-ethylaniline | 82.5 mmol, 10.0 g | C(C)C=1C=C(N)C=CC1 | C8H11N
reactant | sodium nitrite | 99.0 mmol, 16.5 mL, 6.83 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 82.5 mL | Br | BrH
solvent | sulfanic acid | 43.6 g | S(=O)O | H2O2S
catalyst | copper (I) bromide | 86.6 mmol, 12.4 g | [Cu]Br
product | 1-bromo-3-ethylbenzene | 6.13 g, yield 40% | BrC1=CC(=CC=C1)CC | C8H9Br
